US04477384
Purification of α-Pentylacrylic Acid
The distilled acid, 20 g, containing 14% of unreacted heptanoic acid, was treated at room temperature (22° C.) with 100 g absolute methanol and 0.4 ml of the methanol complex solution of boron trifluoride. After standing for 1 hr., 100 ml of water was added and the layers were separated. The water was extracted twice with 100 ml portions of hexane. The combined layer was freed from hexane by evaporation, and the residue was fractionally distilled. The forerun 2.7 g, boiling range 77°-120° C. vapor temperature at 20mm Hg contained mostly the methyl ester of the saturated acid. The residue, 15.4 g contained 98% acid by titration and consisted of 99% α-pentylacrylic acid according to the gas chromatographic analysis.

reactant | heptanoic acid | C(CCCCCC)(=O)O | C7H14O2
reactant | methanol | 100 g | CO | CH4O
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | water | 100 ml | O | H2O
product | α-Pentylacrylic Acid | C(CCCC)C(C(=O)O)=C | C8H14O2
